US08859577B2
Dissolved 1-benzyl-2′-(4-methoxybenzyl)-2′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one (428 mg, 1.02 mmol) in 20 mL 1,2-dichloroethane and treated with 10 mL trifluoroacetic acid. The resultant mixture was heated for 18 h at 90° C. The reaction was cooled to ambient temperature and concentrated to dryness under reduced pressure. The resultant residue was taken up in 50 mL saturated aqueous sodium bicarbonate and extracted with 2×50 mL ethyl acetate. The organic extracts were combined and dried over sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was flash chromatographed (25 g silica, stepgradient 5 column volumes 50% ethyl acetate/heptane, 10 CV 100% ethyl acetate) to yield 278 mg (91%) of 1-benzyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one as a pale yellow solid. 1H NMR (400 MHz, CD3OD) δ ppm 7.27 (m, 6H), 3.55 (s, 2H), 2.64 (m, 4H), 2.45 (td, J=11.7, 2.5 Hz, 2H), 2.06 (d, J=12.1 Hz, 2H), 1.74 (m, 2H); m/z (M+1)=298.5.

reactant | 1-benzyl-2′-(4-methoxybenzyl)-2′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 1.02 mmol, 428 mg | C(C1=CC=CC=C1)N1CCC2(CC(C3=NN(C=C3O2)CC2=CC=C(C=C2)OC)=O)CC1 | C25H27N3O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-benzyl-1′H-spiro[piperidine-4,5′-pyrano[3,2-c]pyrazol]-7′(6′H)-one | 278 mg, 91% | C(C1=CC=CC=C1)N1CCC2(CC(C=3NN=CC3O2)=O)CC1 | C17H19N3O2
